US09382238B2
A suspension of 4-bromo-1-methyl-1H-pyrazole (2 g, 12.42 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (3.47 g, 13.66 mmol), KOAc (2.438 g, 24.84 mmol), PdCl2(dppf) (0.909 g, 1.242 mmol) in 1,4-dioxane (20 mL) was heated to 100° C. for 5 h under N2 atmosphere. The mixture was concentrated to give the residue which was extracted with DCM (15 mL×2). The organic extract was washed with brine (20 mL), dried over Na2SO4, filtered and concentrated, and then the crude product was purified by silica column chromatography (10% EA: 90% Petroleum ether, 4 g silica column). All fractions found to contain product by TLC (EA: Petroleum ether=1:1, Rf=0.3) were combined and concentrated to yield a yellow solid of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (700 mg, 3.36 mmol, 27.1% yield): 1H NMR (400 MHz, CDCl3) δ 7.77 (s, 1H), 7.66 (s, 1H), 3.92 (s, 3H), 1.32 (s, 12H). ES-LCMS m/z 209 (M+H).

reactant | 4-bromo-1-methyl-1H-pyrazole | 12.42 mmol, 2 g | BrC=1C=NN(C1)C | C4H5BrN2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 13.66 mmol, 3.47 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 24.84 mmol, 2.438 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 1.242 mmol, 0.909 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.36 mmol, 700 mg, 27.1% yield | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
